US07238775B2
2-(1-Bromoethyl)-naphthalene (105 g, 446 mmol) in anhydrous ethanol (150 mL) was added to a stirred solution of diethyl acetamidomalonate (97.6 g, 450 mmol) previously reacted with sodium ethylate (sodium metal 10.3 g, 448 mmol) in anhydrous ethanol (400 mL). The reaction mixture was stirred at 40° C. overnight. After removal of two-thirds of the solvent in vacuo and keeping the mixture in the refrigerator overnight, the precipitated product and NaBr crystals were collected by filtration. The solid was washed with cold ethanol and distilled water (to eliminate NaBr), yielding 112 g (67%) of diethyl-α-methyl-2-naphthylacetamidomalonate as white crystals: mp 148-150° C.; C21H25NO5 MS: 371,44.

reactant | 2-(1-Bromoethyl)-naphthalene | 446 mmol, 105 g | BrC(C)C1=CC2=CC=CC=C2C=C1 | C12H11Br
reactant | diethyl acetamidomalonate | 450 mmol, 97.6 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethylate | 448 mmol, 10.3 g | CC[O-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | diethyl-α-methyl-2-naphthylacetamidomalonate | 112 g, 67% | C(C)OC(C(C(=O)OCC)(C)NC(CC1=CC2=CC=CC=C2C=C1)=O)=O | C20H23NO5
